US04448962
A mixture of the 1-(2-chloroethyl)-6-fluoro-7-(4-acetyl-1-piperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (65 mg) (0.153 millimole), NaOH (0.10 g), H2O (1 ml), and ethanol (1 ml) was heated at 95°-100° C. for 4 hours under stirring. After cooling, the reaction mixture was acidified with hydrochloric acid, and evaporated under vacuum. The residue was recrystallized from a mixture of water and ethanol to obtain 48 mg of 1-vinyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid hydrochloride.

reactant | 1-(2-chloroethyl)-6-fluoro-7-(4-acetyl-1-piperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 0.153 millimole, 65 mg | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)N1CCN(CC1)C(C)=O)CCCl | C20H23ClFN3O4
reactant | NaOH | 0.10 g | [OH-].[Na+]
reactant | H2O | 1 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-vinyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid hydrochloride | 48 mg | Cl.C(=C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | InChI=1S/C16H16FN3O3.ClH/c1-2-19-9-11(16(22)23)15(21)10-7-12(17)14(8-13(10)19)20-5-3-18-4-6-20;/h2,7-9,18H,1,3-6H2,(H,22,23);1H
